US05273999
Preparation of 1-[2,4-Dihydroxy-3-(3-phenylpropyl)phenyl]ethanone
A solution of 10.0 g (33.5 mmol) of 1-[2,4-dimethoxy-3-(3-phenylpropyl)phenyl]ethanone from the preceding example in 250 mL of dichloromethane was stirred at -50° C. while 67 mL (67 mmol) of 1m boron tribromide in dichloromethane was added over a 15 min period. The reaction mixture was stirred at -50° C. for 1 hr and at room temperature for 3 days before being poured onto ice. Work-up with 9:1 dichloromethanemethanol in the usual manner gave a product which was a chromatographed on silica gel. Elution with hexane-ether mixtures gave 6.69 g (74%) of the title compound as a solid. Recrystallization of a sample from ether-hexane gave colorless solid, mp 120°-122° C.

reactant | 1-[2,4-dimethoxy-3-(3-phenylpropyl)phenyl]ethanone | 33.5 mmol, 10.0 g | COC1=C(C=CC(=C1CCCC1=CC=CC=C1)OC)C(C)=O | C19H22O3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 1-[2,4-Dihydroxy-3-(3-phenylpropyl)phenyl]ethanone | 6.69 g, 74% | OC1=C(C=CC(=C1CCCC1=CC=CC=C1)O)C(C)=O | C17H18O3
